US07943774B2
1-(4-{4-[(4-Methoxyphenyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (I-100)
Tetrakis(triphenylphosphine)palladium(0) (25 mg), copper(I) iodide (8 mg) and triethylamine (53 mg) are added to a solution of 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (I-98, 200 mg) and 1-bromo-4-methoxybenzene (91 mg) in degassed N,N-dimethylformamide (2 ml). After warming to 85° C., tetra-n-butylammonium fluoride (1M in THF, 0.48 ml) is added dropwise. The reaction mixture is then diluted with water and extracted with ethyl acetate. The organic extracts are dried over sodium sulphate and concentrated under reduced pressure. After chromatographic purification, this gives 1-(4-{4-[(4-methoxyphenyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (84 mg).

reactant | triethylamine | 53 mg | C(C)N(CC)CC | C6H15N
reactant | 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 200 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C#C[Si](C)(C)C)C(F)(F)F | C20H25F3N4OSSi
reactant | 1-bromo-4-methoxybenzene | 91 mg | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | tetra-n-butylammonium fluoride | 1M, 0.48 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 8 mg | [Cu]I
product | 1-(4-{4-[(4-Methoxyphenyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | COC1=CC=C(C=C1)C#CC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C24H23F3N4O2S
